US07906660B2
3′-MethoxyIsoflav-3-ene-7-ol was prepared from 7-acetoxy-3′-methoxyisoflav-3-ene (0.1 g, 0.3 mmol) and imidazole (0.15 g) in ethanol (2.0 ml) as described for isoflav-3-ene-4′,7-diol. Yield: (0.06 g, 70%) m.p. 75° C. 1H NMR (CDCl3): δ 3.84 (s, 3H, OMe), 5.12 (s, 2H, H2), 6.38 (d, 1H, J 2.0 Hz, H8), 6.40 (dd, 1H, J 2.0 Hz, 8.3 Hz, H6), 6.76 (bs, 1H, H4), 6.84 (dd, 1H, J 1.9 Hz, 8.3 Hz, ArH), 6.95 (m, 3H, ArH), 7.29 (t, 1H, J 8.3 Hz, ArH).

reactant | 7-acetoxy-3′-methoxyisoflav-3-ene | 0.3 mmol, 0.1 g | C(C)(=O)OC1=CC=C2C=C(COC2=C1)C1=CC(=CC=C1)OC | C18H16O4
reactant | imidazole | 0.15 g | N1C=NC=C1 | C3H4N2
reactant | isoflav-3-ene-4′,7-diol | O1CC(=CC2=CC=C(C=C12)O)C1=CC=C(C=C1)O | C15H12O3
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 3′-MethoxyIsoflav-3-ene-7-ol | COC=1C=C(C=2COC3=CC(=CC=C3C2)O)C=CC1 | C16H14O3
